Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Adhesive Tape / Percocet / Erythromycin Base / Bee 
Sting Kit / adhesive bandage / Caffeine
 
Attending: ___.
 
Chief Complaint:
20 lb weight gain, DOE
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old F w/ history of hypertension,
obesity, osteoarthritis, hypothyroidism, and sarcoidosis
presenting for evaluation of a 20 lb weight gain in 1 week, DOE,
and lower extremity edema. She was seen by Cognitive Neurology
today who sent her in for evaluation. She reports that she woke
up approximately 3 days before admission with new lower 
extremity
swelling, DOE, bendopnea, and orthopnea. She also endorses chest
pain while walking that stops with slowing down. On ___, she 
was
265 pounds and today her weight is 293. She denies any chest
pain. She also has had three weeks of rhinorrhea, sore throat,
and a productive cough. 

In the ED, initial vital signs were T 99 HR 87 BP 135/106 RR 22
SPO2 96% RA. Her exam was notable for volume overload with
bilateral crackles and lower extremity edema. proBNP was only
221. TSH was normal. Hgb was newly decreased to 10.7. Urine
alb/Cr ratio was high at 109 and she had a low total protein of
5.8. ECG was unchanged from prior with sinus rhythm and
borderline LVH. Bedside cardiac ultrasound reportedly performed,
but not documented anywhere. CXR in the ED showed pulmonary
vascular congestion, so she was given 40 mg IV Lasix. 

Upon arrival to the floor, the patient reports the above story.
She is currently chest pain free, although notes dyspnea with
walking to the bathroom. Her legs feel lighter than before since
she received IV Lasix. This reminds her exactly of when she had
strep-induced nephritis at ___ years old. 

REVIEW OF SYSTEMS:
==================
Cardiac review of systems is notable for absence of paroxysmal
nocturnal dyspnea, palpitations, syncope, or presyncope. On
further review of systems, denies any prior history of stroke,
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the
time of surgery, myalgias, hemoptysis, black stools or red
stools. Denies exertional buttock or calf pain. Denies recent
fevers, chills or rigors. All of the other review of systems 
were
negative.
 
Past Medical History:
1. CARDIAC RISK FACTORS
- Hypertension
- Obesity 

2. CARDIAC HISTORY
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: None
- Mitral valve prolapse 

3. OTHER PAST MEDICAL HISTORY
- Hypothyroidism, s/p partial thyroidectomy for multinodular
goiter 
- Sarcoidosis
- Acute nephritis diagnosed at age ___
- Urinary incontinence
- Spinal stenosis, lumbar region with neurogenic claudication,
s/p 3. Laminectomy lumbar L2-5, fusion I3-I5, instrumentation,
bone
graft, ___ S.viridans PJI of right knee (___)
- Chronic bilateral knee pain s/p bilateral total knee
replacement, ___
- Cerebral aneurysm s/p clips    
- Pulmonary nodule  
- Irritable bowel syndrome  
- Hx of CCY, APPY, TAH/RSO  
- S/p remote CTS release  
 
Social History:
___
Family History:
Mother - breast cancer
Brother - type ___ DM, CAD s/p CABG
Father - CAD s/p CABG, iCM 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 98.7 PO 154 / 84 74 20 92 ra 
GENERAL: Obese elderly woman sitting up in bed in no acute
distress
HEENT: PERRL, EOMI, anicteric sclera, MMM, no oropharyngeal
erythema or exudates, no rhinorrhea 
NECK: supple, no LAD, JVP @ 12 cm
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen obese, soft, multiple surgical scar, nontender in 
all
quadrants, no rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis or clubbing. 1+ pitting ___ to knees.
Bruising on knees  
PULSES: 1+ radial pulses bilaterally
BACK: Buffalo hump present 
NEURO: Alert although sometimes forgetful when asked questions,
CN intact, strength ___ x4 extremities, sensation to LT intact 
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
========================
VS: 24 HR Data (last updated ___ @ 722)
    Temp: 97.7 (Tm 98.3), BP: 124/63 (117-142/63-75), HR: 64
(64-75), RR: 16 (___), O2 sat: 96% (92-98), O2 delivery: RA,
Wt: 264.33 lb/119.9 kg  
GENERAL: Obese elderly woman, NAD
HEENT: anicteric sclera
NECK: supple, JVP not appreciated
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no increased work of breathing
GI: abdomen obese, soft, nontender
EXTREMITIES: No ___ edema
PULSES: palpable distal pulses
BACK: Buffalo hump present 
NEURO: alert, moves all four extremities with purpose
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:00PM BLOOD WBC-9.6 RBC-4.07 Hgb-10.7* Hct-35.6 
MCV-88 MCH-26.3 MCHC-30.1* RDW-16.4* RDWSD-52.0* Plt ___
___ 03:00PM BLOOD Neuts-77.9* Lymphs-12.4* Monos-7.1 
Eos-1.6 Baso-0.4 Im ___ AbsNeut-7.47* AbsLymp-1.19* 
AbsMono-0.68 AbsEos-0.15 AbsBaso-0.04
___ 03:00PM BLOOD ___ PTT-28.2 ___
___ 03:00PM BLOOD Glucose-97 UreaN-18 Creat-0.9 Na-147 
K-4.6 Cl-110* HCO3-29 AnGap-8*
___ 03:00PM BLOOD ALT-13 AST-20 AlkPhos-97 TotBili-0.2
___ 03:00PM BLOOD cTropnT-<0.01 proBNP-221
___ 03:00PM BLOOD Albumin-3.5 Calcium-9.1 Phos-3.4 Mg-2.0 
Cholest-188
___ 03:00PM BLOOD VitB12-713
___ 03:00PM BLOOD Triglyc-114 HDL-71 CHOL/HD-2.6 LDLcalc-94
___ 03:00PM BLOOD TSH-0.84

MICROBIOLOGY:
=============
___ 3:00 pm SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

INTERVAL LABS:
==============
___ C1 ESTERASE INHIBITOR PROTEIN, Result 34, Ref ___ 
mg/dL
___ COMPLEMENT, TOTAL (CH50), Result >60 H, Ref ___ U/mL

___ 06:18AM BLOOD cTropnT-<0.01
___ 01:18AM BLOOD %HbA1c-5.3 eAG-105
___ 03:10PM BLOOD C3-134 C4-28

IMAGING AND REPORTS:
====================
CHEST (PA & LAT) ___
Pulmonary vascular congestion without overt edema or focal 
consolidation.

Transthoracic Echo Report ___
The left atrial volume index is mildly increased. The right 
atrium is moderately enlarged. There is no evidence for an 
atrial septal defect by 2D/color Doppler
. The estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. Quantitative biplane left ventricular 
ejection fraction is 56 %.
There is no resting left ventricular outflow tract gradient. No 
ventricular septal defect is seen. Diastolic parameters are 
indeterminate. Normal right ventricular cavity size with mild 
global free wall hypokinesis. The aortic sinus diameter is 
normal for gender with normal ascending aorta diameter for 
gender
. The aortic arch diameter is normal. There is no evidence for 
an aortic arch coarctation. The aortic valve leaflets (3) are 
mildly thickened. There is no aortic valve stenosis. There is
no aortic regurgitation. The mitral valve leaflets are mildly 
thickened with no mitral valve prolapse.
There is trivial mitral regurgitation. The tricuspid valve 
leaflets appear structurally normal. There is physiologic 
tricuspid regurgitation. The estimated pulmonary artery systolic 
pressure is borderline elevated. There is a trivial pericardial 
effusion.
IMPRESSION: Biatrial enlargement. Mild symmetric left 
ventricular hypertrophy
. Preserved biventricular systolic function. Borderline 
pulmonary hypertension.
Compared with the prior TTE ___, the findings are similar
.

DISCHARGE LABS:
===============
___ 08:14AM BLOOD WBC-7.6 RBC-4.39 Hgb-11.6 Hct-38.5 MCV-88 
MCH-26.4 MCHC-30.1* RDW-16.5* RDWSD-52.8* Plt ___
___ 08:14AM BLOOD Glucose-98 UreaN-34* Creat-1.0 Na-143 
K-4.3 Cl-100 HCO3-32 AnGap-11
___ 08:14AM BLOOD Calcium-9.7 Phos-4.1 Mg-2.2
 
Brief Hospital Course:
Ms. ___ is a ___ year old F w/ history of hypertension,
obesity, osteoarthritis, hypothyroidism, and sarcoidosis
who presented for evaluation of a 20 lb weight gain in 1 week, 
DOE,
and lower extremity edema which improved after diuresis.

ACUTE PROBLEMS:
===============
# HFpEF
# Volume overload
Patient with 20 lb weight gain in one week, new ___ edema, DOE,
orthopnea, and bendopnea. TTE w/ LVEF 56% and biatrial 
enlargement. Diastolic parameters were indeterminate, but 
clinical suspicion is for diastolic failure likely ___ obesity. 
Diastolic CHF likely given her symptoms. Renal disease or DI 
unlikely with unremarkable studies. Unlikely hypothyroidism 
given normal TSH, or liver disease given normal LFTs and no 
stigmata on exam. Euvolemic and back to baseline weight s/p 
Lasix diuresis. Transitioned to Lasix 20 mg PO.
Admission Weight: 133.6 kg, 294.53 lb.
Discharge Weight: 119.9 kg, 264.33 lb

# Chest pain
Patient endorsed exertional chest pain. Unclear if this is
similar to pain she has had in the past when she had stress
tests. ECG unchanged and trops negative x1. ___ be stable angina
vs. severe DOE vs. pulmonary HTN vs. MSK. No evidence of
myocarditis or active ischemia. CP resolved. Should consider 
pMIBI.

# Acute normocytic anemia
___ be secondary to dilution from acute volume overload. No
history of bleeding. Hgb increased with diuresis.

CHRONIC PROBLEMS:
=================
# Hypothyroidism
Continued levothyroxine.

# Hx of spinal hardware infection
Continued home suppressive minocycline.

# Memory loss
Seeing Cognitive Neurology for poor short term memory. B12 and
TSH normal. RPR negative. Continued topiramate.

# GERD
Continued omeprazole.

# Restless legs
Continued Pramipexole.

# Insomnia
Continued trazodone, venlafaxine.

# Dry Eyes
Held home restasis; substituted for artificial tears.

# Urinary urgency
Held home mirabegron and trospium given non-formulary

TRANSITIONAL ISSUES:
====================
[] Consider pMIBI to further evaluate etiology of her chest 
pain.
[] Started on Lasix 20 mg PO on discharge. Titrate as needed and 
please ensure the patient monitors her weight.
[] Consider initiation of a statin.
[] Please weigh yourself every day in the morning. Call your 
doctor at if your weight goes up by more than 3 lbs. PCP: Dr. 
___ ___.
[] Discharge Weight: 119.9 kg, 264.33 lb
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 1000 mg PO BID 
2. L-Lysine (lysine) 500 mg oral BID 
3. Multivitamins 1 TAB PO DAILY 
4. Restasis 0.05 % ophthalmic (eye) BID 
5. Minocycline 100 mg PO Q12H 
6. Omeprazole 20 mg PO BID 
7. Pramipexole 0.25 mg PO TID 
8. Topiramate (Topamax) 50 mg PO BID 
9. TraZODone 100 mg PO QHS 
10. trospium 60 mg oral DAILY 
11. Venlafaxine 200 mg PO QHS 
12. mirabegron 25 mg oral DAILY 
13. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*2 
2.  Calcium Carbonate 1000 mg PO BID  
3.  L-Lysine (lysine) 500 mg oral BID  
4.  Levothyroxine Sodium 50 mcg PO DAILY  
5.  Minocycline 100 mg PO Q12H  
6.  mirabegron 25 mg oral DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  Omeprazole 20 mg PO BID  
9.  Pramipexole 0.25 mg PO TID  
10.  Restasis 0.05 % ophthalmic (eye) BID  
11.  Topiramate (Topamax) 50 mg PO BID  
12.  TraZODone 100 mg PO QHS  
13.  trospium 60 mg oral DAILY  
14.  Venlafaxine 200 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Heart failure with preserved ejection fraction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital for rapid weight gain and 
leg swelling.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were given medication to remove fluid from your body. You 
should continue to take this medication after you leave the 
hospital.
- You got imaging of your heart. The study showed normal pumping 
function but part of the results were indeterminate. You should 
follow-up with your PCP and cardiologist to review these 
results.

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Please weigh yourself every day in the morning. Call your 
doctor at ___ if your weight goes up by more than 3 
lbs.  

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___